US08349893B2
To a solution of 9-bromo-nonanoic acid (7.00 g, 29.5 mmol) in toluene (10 mL) was added triphenylphosphine (7.74 g, 29.5 mmol). The solution was sealed under nitrogen in a pressure tube and heated at 110° C. for 18 hours. On reaction completion two phases were observed. The toluene top layer was decanted from the crude product which was washed with toluene. (8-Carboxy-octyl)-triphenyl-phosphonium bromide (14.9 g) was obtained, which was directly used in the next step. White semisolid, m/e=419.3 ([M+H]+).

reactant | 9-bromo-nonanoic acid | 29.5 mmol, 7.00 g | BrCCCCCCCCC(=O)O | C9H17BrO2
reactant | triphenylphosphine | 29.5 mmol, 7.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (8-Carboxy-octyl)-triphenyl-phosphonium bromide | 14.9 g | [Br-].C(=O)(O)CCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H31O2P.BrH/c28-27(29)22-14-3-1-2-4-15-23-30(24-16-8-5-9-17-24,25-18-10-6-11-19-25)26-20-12-7-13-21-26;/h5-13,16-21H,1-4,14-15,22-23H2;1H
